US05348727
1-(3-Iodophenoxy)-6-(2,4,6-triiodophenoxy)-hexane
A mixture of potassium carbonate (3.0 g, 21.9 mmol, 1.1 eq), 3-iodophenol (4.4 g, 19.9 mmol) and 6-(2,4,6-triiodophenoxy)-1-chlorohexane (11.75 g, 19.9 mmol) in 50 ml of DMF was heated to 110° C. for 1.5 hours and then cooled. The mixture was poured into water and extracted with ethyl acetate. The organic layer was dried (magnesium sulfate) and evaporated to give a solid which was filtered through basic alumina (hexanes-ethyl acetate). The filtrate was concentrated under vacuum leaving the crude product as a solid. Recrystallization from cyclohexane afforded 8.29 g (54%) of the desired product after drying at room temperature under high vacuum, mp 65-66° C.

reactant | potassium carbonate | 21.9 mmol, 3.0 g, 1.1 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 3-iodophenol | 19.9 mmol, 4.4 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | 6-(2,4,6-triiodophenoxy)-1-chlorohexane | 19.9 mmol, 11.75 g | IC1=C(OCCCCCCCl)C(=CC(=C1)I)I | C12H14ClI3O
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-(3-Iodophenoxy)-6-(2,4,6-triiodophenoxy)-hexane | 8.29 g, 54% | IC=1C=C(OCCCCCCOC2=C(C=C(C=C2I)I)I)C=CC1 | C18H18I4O2
